US06384287B1
Preparation of 2,2-bis(1-ethoxypropylperoxy)4-methyl pentane
To a stirred solution of 5 g of methyl isobutyl ketone peroxide containing 35.7 wt. % bis(1-hydroperoxy-1,3-dimethylbutyl)peroxide in isododecane was added 0.05 g p-toluene sulfonic acid. Then 1.8 g ethyl propenyl ether were added in 10 min, the reaction temperature being kept at 20° C. by cooling with an ice-water bath. The mixture was stirred for 20 min at 15° C. The mixture was washed with bicarbonate solution and dried over magnesium sulphate, yielding 5.8 g of product with an active oxygen content of 5.12% Chemical yield:91%.

reactant | methyl isobutyl ketone peroxide | 5 g | CC(=O)CC(C)(C)OO | C6H12O3
reactant | bis(1-hydroperoxy-1,3-dimethylbutyl)peroxide | O(O)C(CC(C)C)(C)OOC(CC(C)C)(C)OO | C12H26O6
reactant | ethyl propenyl ether | 1.8 g | C(=CC)OCC | C5H10O
solvent | isododecane | CCCCCCCCCC(C)C | C12H26
catalyst | p-toluene sulfonic acid | 0.05 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2,2-bis(1-ethoxypropylperoxy)4-methyl pentane | 5.8 g, yield:91% | C(C)OC(CC)OOC(C)(CC(C)C)OOC(CC)OCC | C16H34O6
